US07595325B2
N-[4-(4-Amino-7-isopropyl-7H-pyrrolo[2,3-d]pyrimidine-5-carbonyl)-pyridin-2yl]-2-fluoro-benzenesulfonamide
2-Fluoro-benzenesulfonyl chloride (0.11 mL, 0.81 mmol) was added to a solution of (4-Amino-7-isopropyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-(2-amino-6-methyl-pyridin4-yl)-methanone (200 mg, 0.67 mmol) in pyridine (2 mL). The mixture was stirred for 2 h at 80° C. The reaction mixture was quenched with H2O (10 mL) and extracted with hot EtOAC/MeOH (95:5, 3×10 mL). The combined organic extracts were dried (Na2SO4), filtered, and concentrated in vacuo. Purification by flash column chromatography (ethyl acetate/MeOH 99:1) afforded the title compound as a yellow solid (91 mg, 30%). MS: 455.8 (MH+); HPLC Rf: 5.98 min. (HPLC method 4); HPLC purity: 100%.

reactant | 2-Fluoro-benzenesulfonyl chloride | 0.81 mmol, 0.11 mL | FC1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClFO2S
reactant | (4-Amino-7-isopropyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-(2-amino-6-methyl-pyridin4-yl)-methanone | 0.67 mmol, 200 mg | NC=1C2=C(N=CN1)N(C=C2C(=O)C2=CC(=NC(=C2)C)N)C(C)C | C16H18N6O
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | N-[4-(4-Amino-7-isopropyl-7H-pyrrolo[2,3-d]pyrimidine-5-carbonyl)-pyridin-2yl]-2-fluoro-benzenesulfonamide | 91 mg, 30% | NC=1C2=C(N=CN1)N(C=C2C(=O)C2=CC(=NC=C2)NS(=O)(=O)C2=C(C=CC=C2)F)C(C)C | C21H19FN6O3S
